US07858632B2
5-(6-Isopropyl-1,3-dimethyl-1H-indol-5-yloxy)-pyrimidine-2,4-diamine was prepared from 2-(6-isopropyl-1,3-dimethyl-1H-indol-5-yloxy)-4-methoxy-but-2-enenitrile by treatment with guanidine carbonate and sodium methoxide using the procedure of step 7 of Example 2 above. This material was dissolved in 2.5 ml absolute ethanol, and 820 ml of 1 N HCl in diethyl ether was added with stirring. Diethyl ether was added slowly until small crystals formed, and the solution was then placed in a −10 C freezer for 18 hours. The solid that had formed was collected by filtration, washed with diethyl ether, and dried under vacuum at 45 C to give 171 mg. of the hydrochloride salt, Mp: 185.1° C.

reactant | 2-(6-isopropyl-1,3-dimethyl-1H-indol-5-yloxy)-4-methoxy-but-2-enenitrile | C(C)(C)C1=C(C=C2C(=CN(C2=C1)C)C)OC(C#N)=CCOC | C18H22N2O2
reactant | guanidine carbonate | C(O)(O)=O.NC(=N)N
reactant | sodium methoxide | C[O-].[Na+]
reactant | HCl | 1 N, 820 ml | Cl | ClH
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-(6-Isopropyl-1,3-dimethyl-1H-indol-5-yloxy)-pyrimidine-2,4-diamine | C(C)(C)C1=C(C=C2C(=CN(C2=C1)C)C)OC=1C(=NC(=NC1)N)N | C17H21N5O
